US05233046
1-Hydroxy-4-(phenylethynyl)benzene
A procedure similar to that described1 was used. A sample of 1-methoxy-4-(phenylethynyl)-benzene (0.4 g, 1.9 mmol) was added collidine (3 mL), LiI (1.5 g) and the solution heated under reflux for 5 h (>95% conversion). The solution was poured into water acidified with HCl, extracted with ether (3×50 mL) and dried (MgSO4). The ether was evaporated and the residue chromatographed (PE) eluting the title compound 0.3 g (80%): mp 125°-128° C. (cyclohexane) (lit2 mp 91°-92°C., lit3 mp 83°-84° C.); 1H NMR (300 MHz, DMSO-d6) δ 6.80 (d, J=8.77 Hz, 2H, C2H), 7.37 (d, 2H, C3H), 7.35-7.42 (m, 3H), 7.46-7.50 (m, 2H), 9.92 (s, 1H, OH); 13C NMR (300 MHz, DMSO-d6) δ 87.32 (acetylenic C), 89.98 (acetylenic C), 112.42 (sp2C), 115.74, 122.90 (sp2C), 128.20, 128.66, 131.06, 133.00, 158.06 (COH); IR (CDCl3) 3596 (OH), 3066 (w), 3039 (w), 2217 (w, acetylenic stretch), 1605, 1512, 1429 (w), 1328 (w), 1261 (s), 1219, 1171 (s), 1140 (w), 1099 (w), 834, 805 (w) cm-1. MS (EI) m/e 194 (M+, 100), 165 (29.4), 97 (11.3).

reactant | 1-methoxy-4-(phenylethynyl)-benzene | 1.9 mmol, 0.4 g | COC1=CC=C(C=C1)C#CC1=CC=CC=C1 | C15H12O
reactant | collidine | 3 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | LiI | 1.5 g | [Li+].[I-]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 1-Hydroxy-4-(phenylethynyl)benzene | OC1=CC=C(C=C1)C#CC1=CC=CC=C1 | C14H10O
